US07202251B2
Step A. 4,6-Dimethyl-1,3-dihydro-2H-benzimidazol-2-one
A mixture of 4,6-dimethyl-2-nitroaniline (10.0 g, 60.2 mmol) and 10% Pd/C (1.0 g) in EtOH (300 mL) was stirred under an atmosphere of hydrogen (ca. 1 atm) for 3 h, then filtered through a celite pad and concentrated in vacuo. The crude solid was dissolved in CH3CN (200 mL) and triphosgene (15.0 g, 50.5 mmol) was added. The mixture was stirred for 1 h, then H2O (200 mL) was added slowly and stirring was continued for 1 h. The precipitate was isolated by filtration and dried to give the title compound. MS: m/z=163 (M+1).

reactant | 4,6-dimethyl-2-nitroaniline | 60.2 mmol, 10.0 g | CC1=CC(=C(N)C(=C1)C)[N+](=O)[O-] | C8H10N2O2
reactant | triphosgene | 50.5 mmol, 15.0 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | H2O | 200 mL | O | H2O
solvent | EtOH | 300 mL | CCO | C2H6O
catalyst | Pd/C | 1.0 g | [Pd] | Pd
product | 4,6-Dimethyl-1,3-dihydro-2H-benzimidazol-2-one | CC1=CC(=CC=2NC(NC21)=O)C | C9H10N2O
